US07585886B2
At room temperature, 3.0 ml of 4 M hydrogen chloride/1,4-dioxane was added to 8 ml of 1,4-dioxane solution containing 543 mg of ethyl 1-(2-tert-butyl-2-oxoethyl)piperidine-4-carboxylate, and stirred at 60° C. for 8Hours. The thus formed solid was collected by filtration to obtain 300 mg of [4-(ethoxycarbonyl)piperidin-1-yl]acetic acid as a white solid. EP: 216.

reactant | hydrogen chloride 1,4-dioxane | 4 M, 3.0 ml | Cl.O1CCOCC1
reactant | ethyl 1-(2-tert-butyl-2-oxoethyl)piperidine-4-carboxylate | 543 mg | C(C)(C)(C)C(CN1CCC(CC1)C(=O)OCC)=O | C14H25NO3
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | [4-(ethoxycarbonyl)piperidin-1-yl]acetic acid | 300 mg | C(C)OC(=O)C1CCN(CC1)CC(=O)O | C10H17NO4
